US07960377B2
To a suspension of 1-(4-(trifluoromethyl)phenylsulfonyl)-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carbonitrile (75 mg, 0.203 mmol) in ethanol (2 mL) and water (0.5 mL) was added hydroxylamine hydrochloride (42.3 mg, 0.609 mmol) and sodium carbonate (108 mg, 1.015 mmol). The reaction was heated to 80° C. and stirred at that temperature for 16 h. The reaction mixture was concentrated in vacuo. The resulting paste was suspended in water (10 mL) and extracted with EtOAc (2×20 mL). The combined organics were dried over anhydrous Na2SO4 and concentrated in vacuo to provide N-hydroxy-1-(4-(trifluoromethyl)phenylsulfonyl)-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carboximidamide (80 mg, 0.199 mmol, 98% yield) as a white solid, which was used without further purification. LCMS (+ESI) m/z=403.1 [M+H]+.

reactant | 1-(4-(trifluoromethyl)phenylsulfonyl)-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carbonitrile | 0.203 mmol, 75 mg | FC(C1=CC=C(C=C1)S(=O)(=O)N1C2=C(OCC1)N=CC(=C2)C#N)(F)F | C15H10F3N3O3S
reactant | hydroxylamine hydrochloride | 0.609 mmol, 42.3 mg | Cl.NO
reactant | sodium carbonate | 1.015 mmol, 108 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | water | 0.5 mL | O | H2O
product | N-hydroxy-1-(4-(trifluoromethyl)phenylsulfonyl)-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carboximidamide | 0.199 mmol, 80 mg, 98% yield | ONC(=N)C1=CC2=C(OCCN2S(=O)(=O)C2=CC=C(C=C2)C(F)(F)F)N=C1 | C15H13F3N4O4S
